USRE028972
1-Methyl-5-(2'-nitrophenyl)-7-trifluoromethyl-1,5-benzodiazepine-2,4-(3H,5H)-dione
26 gm. (0.1 mol) of 1-methyl-7-trifluoromethyl-1,5-benzodiazepine-2,4-(3H,5H)-dione were heated with 13 gm. of potassium acetate, 1 gm. of anhydrous copper sulfate and 350 gm. of o-chloro-nitrobenzene for one hour at 150°C. The reaction solution was diluted with methylene chloride, washed with dilute ammonia, sodium hydroxide solution and water, the organic phase was dried, and the solvent evaporated in vacuo. The residue was carefully admixed with petroleum ether, whereby a precipitate was formed, which was recrystallized from methylene chloride/isopropylether. Yield: 30 gm. (80% of theory) of the compound of the formula ##SPC9##

reactant | 1-methyl-7-trifluoromethyl-1,5-benzodiazepine-2,4-(3H,5H)-dione | 0.1 mol | CN1C(CC(NC2=C1C=CC(=C2)C(F)(F)F)=O)=O | C11H9F3N2O2
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | o-chloro-nitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-Methyl-5-(2'-nitrophenyl)-7-trifluoromethyl-1,5-benzodiazepine-2,4-(3H,5H)-dione | CN1C(CC(N(C2=C1C=CC(=C2)C(F)(F)F)C2=C(C=CC=C2)[N+](=O)[O-])=O)=O | C17H12F3N3O4
